US08476434B2
Synthesis of 2-(4-Methyl-piperazin-1-yl)-5-trifluoromethyl-phenylamine
Example 18 was prepared in accordance to a procedure described in Collins, et. al., Tetrahedron, 48, No. 37, pp 7887-7898, 1992. To a solution of 1-Fluoro-2-nitro-4-trifluoromethyl-benzene (1.0 g, 4.78 mmol) in dry THF (24 mL) was added 1-Methyl-piperazine (0.64 mL, 5.74 mmol). The solution turned bright yellow. NaHCO3 (1.1 g, 13 mmol) was added and the reaction was stirred at room temperature and monitored by LCMS. The reaction was filtered and concentrated before being taken up in CH2Cl2 and H2O. The organic layer was separated, dried with MgSO4, filtered, and concentrated to afford the title compound as an orange-brown oil.

reactant | 1-Fluoro-2-nitro-4-trifluoromethyl-benzene | 4.78 mmol, 1.0 g | FC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
reactant | 1-Methyl-piperazine | 5.74 mmol, 0.64 mL | CN1CCNCC1 | C5H12N2
reactant | NaHCO3 | 13 mmol, 1.1 g | C(=O)(O)[O-].[Na+]
solvent | THF | 24 mL | C1CCOC1 | C4H8O
product | 2-(4-Methyl-piperazin-1-yl)-5-trifluoromethyl-phenylamine | CN1CCN(CC1)C1=C(C=C(C=C1)C(F)(F)F)N | C12H16F3N3
